US07754737B2
(R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (4.1 g, 0.01 mol) was dissolved in 20% TFA/CH2Cl2 (40 mL). The reaction mixture was stirred at rt for 2 h, TLC showed the reaction was completed. A solution of sat'd aq Na2CO3 was added dropwise to adjust the pH to 8˜9 and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to give crude (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (3.0 g, 97%), which was used without purification.

reactant | (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 0.01 mol, 4.1 g | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClNO4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | TFA CH2Cl2 | 40 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 3.0 g, 97% | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1 | C17H26ClNO2
